US08058045B2
(S)-5-(5-(4-Methoxyphenyl)-4-(morpholin-2-ylmethylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile (Y-146)
TFA (0.2 mL) was added to a solution of (R)-tert-butyl 2-((2-(5-cyanopyrazin-2-ylamino)-5-(4-methoxyphenyl)pyridin-4-ylamino)methyl)morpholine-4-carboxylate (0.014 g, 0.027 mmol) dissolved in dichloromethane (2 mL) at room temperature. The reaction mixture was stirred for 20 min. Solvent was removed in vacuo and the mixture was purified by ion exchange on SCX-II acidic resin (500 mg), eluting with methanol then 2M ammonia-methanol. The basic fractions were combined and solvent was removed in vacuo. The crude product was purified by preparative thin layer chromatography, eluting with methanol/dichloromethane (1/19), to give the title compound as a yellow solid (0.007 g, 62%).

reactant | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-tert-butyl 2-((2-(5-cyanopyrazin-2-ylamino)-5-(4-methoxyphenyl)pyridin-4-ylamino)methyl)morpholine-4-carboxylate | 0.027 mmol, 0.014 g | C(#N)C=1N=CC(=NC1)NC1=NC=C(C(=C1)NC[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC | C27H31N7O4
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (S)-5-(5-(4-Methoxyphenyl)-4-(morpholin-2-ylmethylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile | 0.007 g, 62% | COC1=CC=C(C=C1)C=1C(=CC(=NC1)NC=1N=CC(=NC1)C#N)NC[C@@H]1CNCCO1 | C22H23N7O2
